US06448242B1
Preparation of 1,1′-trimethylenedi[4-[4-(3,4,5-trimethoxyphenyl)benzoyl]hexahydro-1,4-diazepine]dihydrochloride
Concentrated hydrochloric acid (0.025 ml; 0.30 mmol) was added to a solution of 1,1′-trimethylenedi[4-[4-(3,4,5-trimethoxyphenyl)benzoyl]hexahydro-1,4-diazepine](46 mg; 0.060 mmol) in ethanol (5 ml) and the reaction mixture was concentrated under reduced pressure. The concentrated residue was suspended in diethyl ether and collected by filtration to obtain the title compound as a colorless crystalline powder.

reactant | hydrochloric acid | 0.30 mmol, 0.025 ml | Cl | ClH
reactant | 1,1′-trimethylenedi[4-[4-(3,4,5-trimethoxyphenyl)benzoyl]hexahydro-1,4-diazepine] | 0.060 mmol, 46 mg | COC=1C=C(C=C(C1OC)OC)C1=CC=C(C(=O)N2CCN(CCC2)CCCN2CCN(CCC2)C(C2=CC=C(C=C2)C2=CC(=C(C(=C2)OC)OC)OC)=O)C=C1 | C45H56N4O8
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1,1′-trimethylenedi[4-[4-(3,4,5-trimethoxyphenyl)benzoyl]hexahydro-1,4-diazepine]dihydrochloride | Cl.Cl.COC=1C=C(C=C(C1OC)OC)C1=CC=C(C(=O)N2CCN(CCC2)CCCN2CCN(CCC2)C(C2=CC=C(C=C2)C2=CC(=C(C(=C2)OC)OC)OC)=O)C=C1 | InChI=1S/C45H56N4O8.2ClH/c1-52-38-28-36(29-39(53-2)42(38)56-5)32-10-14-34(15-11-32)44(50)48-22-8-20-46(24-26-48)18-7-19-47-21-9-23-49(27-25-47)45(51)35-16-12-33(13-17-35)37-30-40(54-3)43(57-6)41(31-37)55-4;;/h10-17,28-31H,7-9,18-27H2,1-6H3;2*1H
